US08871788B2
[7-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-(tetrahydro-pyran-4-yl)-methanone
A vial was charged with (7-bromo-3,4-dihydro-1H-isoquinolin-2-yl)-(tetrahydro-pyran-4-yl)-methanone (162 mg, 0.5 mmol), (2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl (90 mg, 0.55 mmol), and sodium tert-butoxide (69 mg, 0.7 mmol), tris(dibenzylideneacetone)dipalladium-(0) (4.6 mg, 0.005 mmol), BINAP (9.3 mg, 0.015 mmol), and toluene (4 mL) under argon. The vial was capped with a septum and was heated to 85° C. (external) with stirring until the starting material was completely consumed as monitored by TLC analysis. The mixture was allowed to cool to room temperature, taken up in ether (5.0 mL), filtered, and concentrated. The crude product was then purified further by flash chromatography on silica gel, eluted with 3% MeOH in DCM and 7.5% MeOH in DCM to 105 mg (53% yield) of the title compound as a tan solid.

reactant | (7-bromo-3,4-dihydro-1H-isoquinolin-2-yl)-(tetrahydro-pyran-4-yl)-methanone | 0.5 mmol, 162 mg | BrC1=CC=C2CCN(CC2=C1)C(=O)C1CCOCC1 | C15H18BrNO2
reactant | (2S,3′S)-2-methyl-[1,3′]bipyrrolidinyl | 0.55 mmol, 90 mg | C[C@@H]1N(CCC1)[C@@H]1CNCC1 | C9H18N2
reactant | sodium tert-butoxide | 0.7 mmol, 69 mg | CC(C)([O-])C.[Na+]
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | MeOH | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | BINAP | 0.015 mmol, 9.3 mg | C=1C=CC(=CC1)P(C=2C=CC=CC2)C3=CC=C4C=CC=CC4=C3C5=C6C=CC=CC6=CC=C5P(C=7C=CC=CC7)C=8C=CC=CC8 | C44H32P2
product | [7-((2S,3′S)-2-Methyl-[1,3′]bipyrrolidinyl-1′-yl)-3,4-dihydro-1H-isoquinolin-2-yl]-(tetrahydro-pyran-4-yl)-methanone | 105 mg, 53% yield | C[C@@H]1N(CCC1)[C@@H]1CN(CC1)C1=CC=C2CCN(CC2=C1)C(=O)C1CCOCC1 | C24H35N3O2
